US08975398B2
tert-butyl 4-(4-(1-((benzyloxy)carbonyl)azetidine-3-carboxamido)phenyl)-4-fluoropiperidine-1-carboxylate
tert-Butyl 4-(4-(1-((benzyloxy)carbonyl)azetidine-3-carboxamido)phenyl)-4-hydroxypiperidine-1-carboxylate (2.5 g, 4.91 mmol) in 50 mL dichloromethane was cooled to −78° C. and diethylaminosulfur trifluoride was added dropwise via a syringe. The reaction solution was stirred at −78° C. for an additional 1 hour and then warmed to 0° C. The reaction was allowed to stir at 0° C. for 1 hour and was cooled back down to −78° C. The reaction mixture was diluted with 50 mL of dichloromethane followed by quenching with 10 mL methanol. The solution was washed with saturated sodium bicarbonate and brine, dried with magnesium sulfate and filtered. Concentration and normal phase chromatography provided the title compound.

reactant | tert-Butyl 4-(4-(1-((benzyloxy)carbonyl)azetidine-3-carboxamido)phenyl)-4-hydroxypiperidine-1-carboxylate | 4.91 mmol, 2.5 g | C(C1=CC=CC=C1)OC(=O)N1CC(C1)C(=O)NC1=CC=C(C=C1)C1(CCN(CC1)C(=O)OC(C)(C)C)O | C28H35N3O6
reactant | diethylaminosulfur trifluoride | C(C)N(CC)S(F)(F)F | C4H10F3NS
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | tert-butyl 4-(4-(1-((benzyloxy)carbonyl)azetidine-3-carboxamido)phenyl)-4-fluoropiperidine-1-carboxylate | C(C1=CC=CC=C1)OC(=O)N1CC(C1)C(=O)NC1=CC=C(C=C1)C1(CCN(CC1)C(=O)OC(C)(C)C)F | C28H34FN3O5
